US07435731B2
(S)-3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-1H-pyrazolo[3,4-d]pyrimidine (1.395 g) was taken up in 30 mL dioxane, and 25 mL of 4N HCl was added. The reaction mixture was stirred at room temperature for 25 minutes, and then the reaction mixture was partitioned between water (100 mL) and EtOAc (300 mL). The organic phase was washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was eluted through silica gel with 30% EtOAc in methylene chloride to provide 886.4 mg of (S)-3-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-propane-1,2-diol. Mass Spec. M+H=449. Mp.=179.2-181.3° C.

reactant | (S)-3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-1H-pyrazolo[3,4-d]pyrimidine | 1.395 g | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)OC[C@@H]2OC(OC2)(C)C)OC2=C(C=C(C=C2)F)F | C23H19ClF2N4O4
reactant | HCl | 4N, 25 mL | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (S)-3-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-propane-1,2-diol | 886.4 mg | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)OC[C@H](CO)O)OC2=C(C=C(C=C2)F)F | C20H15ClF2N4O4
